US07081457B2
5-(4,4-Dimethyl-2-thioxo-1,4-dihydro-2H-3,1-benzoxazin-6-yl)-4-methylthiophene-2-carbonitrile
To a solution of 5-(4,4-dimethyl-2-oxo-1,4-dihydro-2H-3,1-benzoxazin-6-yl)-4-methylthiophene-2-carbonitrile (5 g, 16.7 mmol) in anhydrous toluene was added, at room temperature under a blanket of nitrogen, Lawesson's reagent (6 g, 14.8 mmol). The reaction mixture was heated at reflux for 2 hrs, allowed to cool to room temperature, and solvent was removed in vacuo. The residue was purified by a silica gel column chromatography (THF:hexane/1:3) to yield the title compound as a yellowish solid (2.4 g, 46%): mp 211–212° C.; 1H-NMR (DMSO-d6) δ 12.3 (s, 1H), 7.88 (s, 1H), 7.46–7.52 (m, 2H), 7.16 (d, 1H, J=8.3 Hz), 2.30 (s, 3H), 1.68 (s, 6H); MS (ESI) m/z 313 [M−H]−; Anal. Calc. For C16H14N2OS2; C, 61.12; H, 4.49; N, 8.91. Found: C, 60.91; H, 4.48; N, 8.66.

reactant | 5-(4,4-dimethyl-2-oxo-1,4-dihydro-2H-3,1-benzoxazin-6-yl)-4-methylthiophene-2-carbonitrile | 16.7 mmol, 5 g | CC1(OC(NC2=C1C=C(C=C2)C2=C(C=C(S2)C#N)C)=O)C | C16H14N2O2S
reactant | Lawesson's reagent | 14.8 mmol, 6 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-(4,4-Dimethyl-2-thioxo-1,4-dihydro-2H-3,1-benzoxazin-6-yl)-4-methylthiophene-2-carbonitrile | 2.4 g, 46% | CC1(OC(NC2=C1C=C(C=C2)C2=C(C=C(S2)C#N)C)=S)C | C16H14N2OS2
